US04439444
To a solution of 2 g of 3-butanesulfonamido-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide oxalate in 10 ml of water there is added sodium hydroxide until a strong basic reaction is obtained. The mixture is extracted with a mixture ethyl acetate:ethanol 9:1, the organic phase is dried over anhydrous sodium sulfate and evaporated to dryness. Thus, there is obtained 1.5 g of 3-butanesulfonamido-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide as an oily yellowish product.

reactant | 3-butanesulfonamido-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide oxalate | 2 g | C(C(=O)O)(=O)O.C(CCC)S(=O)(=O)NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-butanesulfonamido-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 1.5 g | C(CCC)S(=O)(=O)NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C21H31N3O4S2
